US08278290B2
(i) 3-(2-Furyl)-1-(3,4,5-trimethoxyphenyl)prop-2-yn-1-one
2-Ethynylfuran (200 mg, 2.17 mmol) was dissolved in dry THF (10 ml) and cooled to −78° C. under N2 atmosphere. BuLi (1.2 ml, 2.4 mmol) was added slowly and stirred at −78° C. for 10 min and then 3,4,5-trimethoxybenzaldehyde (500 mg, 2.6 mmol) was added and reaction mixture was stirred for 1 h at −78° C. and then reaction temp raised to room temp. The reaction was quenched by addition of aqueous NH4Cl solution and extracted with EtOAc. The colorless oil was dissolved in dichloromethane and excess of MnO2 was added to it and stirred overnight at room temp. The reaction mixture was filtered through celite plug and evaporated to dryness. 3-(2-furyl)-1-(3,4,5-trimethoxyphenyl)prop-2-yn-1-one was precipitated from ether by slow addition of hexane as off-white powder (65%). 1H NMR (300 MHz, CDCl3) δ 3.93 (s, 9H), 6.50-6.52 (m, 1H), 7.01 (d, J=3.6 Hz, 1H), 7.45 (s, 2H), 7.24 (s, 1H), 7.55 (d, J=1.5 Hz).

reactant | 2-Ethynylfuran | 2.17 mmol, 200 mg | C(#C)C=1OC=CC1 | C6H4O
reactant | BuLi | 2.4 mmol, 1.2 ml | [Li]CCCC
reactant | 3,4,5-trimethoxybenzaldehyde | 2.6 mmol, 500 mg | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-(2-Furyl)-1-(3,4,5-trimethoxyphenyl)prop-2-yn-1-one | O1C(=CC=C1)C#CC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C16H14O5
